US08471005B2
Into a 1-Neck round-bottom flask, N-Methyl-N-[2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide (0.710 g, 2.04 mmol) Tetrahydrofuran (20.0 mL, 246 mmol), and Methanol (10 mL, 200 mmol) were added under an atmosphere of Nitrogen at room temperature . Recrystallized N-Bromosuccinimide (0.381 g, 2.14 mmol) was added portion wise over 10 minutes. The reaction was stirred at room temperature for 2 hours. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 5% methanol). The collected fractions afforded N-[2-(5-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide a yellow solid (0.72 g, 82%).

reactant | N-Methyl-N-[2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-methanesulfonamide | 2.04 mmol, 20.0 mL, 0.710 g | CN(S(=O)(=O)C)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)SC | C15H16N4O2S2
reactant | Methanol | 200 mmol, 10 mL | CO | CH4O
reactant | N-Bromosuccinimide | 2.14 mmol, 0.381 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | N-[2-(5-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | BrC=1C=C(N2N=C(N=CC21)SC)C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H15BrN4O2S2
